US04364875
3-Phenoxy-6-nitro-N-allyl-aniline
A mixture of 10 gm of 4-nitro-1,3-diphenoxy-benzene, 30 ml of tetrahydrofuran and 10 l ml of allylamine was refluxed for 8 hours. Thereafter, the reaction mixture was worked up as in Example 3, and the reaction product was recrystallized from ethanol, yielding 6.1 gm (69% of theory) of the thin-layer chromatographically (cyclohexane/toluene=1:1) uniform title compound, m.p. 67°-68° C.

reactant | 4-nitro-1,3-diphenoxy-benzene | 10 gm | [N+](=O)([O-])C1=C(C=C(C=C1)OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H13NO4
reactant | allylamine | C(C=C)N | C3H7N
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-Phenoxy-6-nitro-N-allyl-aniline | O(C1=CC=CC=C1)C=1C=C(NCC=C)C(=CC1)[N+](=O)[O-] | C15H14N2O3
